US09259470B2
1.0M KHMDS (5.09 mL, 5.09 mmol) as a solution in THF was added to a cold (0° C.) suspension of 4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one (0.93 g, 4.24 mmol) in THF (20 mL) The reaction mixture was stirred at 0° C. for 10 minutes before (R)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate (2.44 g, 6.36 mmol) was added as a solution in THF (5 mL) The reaction was heated to reflux for 30 hours and then cooled to room temperature and concentrated. The residue was taken up in ethyl acetate (200 mL) and washed with water. The organics were dried, filtered and concentrated. The crude product was purified via column chromatography, eluting with hexanes/ethyl acetate (4:1) to give (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one (1.35 g, 63%) as a solid. 1H NMR (400 MHz, CDCl3) δ 8.66 (d, J=5.0 Hz, 1H), 7.43 (m, 2H), 7.34 (d, J=5.0 Hz, 1H), 7.32-7.28 (m, 2H), 7.16 (m, 1H), 6.85 (m, 1H), 6.24 (m, 1H), 4.35 (m, 1H), 4.23 (m, 1H), 2.65 (s, 3H), 0.88 (s, 9H), 0.03 (s, 3H), −0.03 (s, 3H); m/z (APCI-pos) M+1=506.1, 508.1.

reactant | KHMDS | 5.09 mmol, 1.0M, 5.09 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one | 4.24 mmol, 0.93 g | CSC1=NC=CC(=N1)C1=CC(NC=C1)=O | C10H9N3OS
reactant | (R)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate | 6.36 mmol, 2.44 g | CS(=O)(=O)O[C@@H](CO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)F | C15H24ClFO4SSi
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one | 1.35 g, 63% | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)SC)=O | C24H29ClFN3O2SSi
